US08604055B2
Step (v): Synthesis of (5-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropylmethyl-amine
A mixture of (3,5-bis-trifluoromethyl-benzyl)-(6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-5-ylmethyl)-(2-methyl-2H-tetrazol-5-yl)-amine (0.5 g, 0.9 mmol), potassium-tert-butoxide butoxide (0.43 g, 3 mmol), cyclopropylmethyl amine (0.275 g, 3 mmol), and Pd(OAc)2 (0.01 g, 0.004 mmol), BINAP (0.03 g,0.04 mmol) was prepared in a 10 mL pressure vial. The pressure vial was placed in the focused microwave oven (CEM Discovery) and irradiated for 20 min at 110° C. by using 250 Watt microwave power. After this mixture was cooled to RT, ethyl acetate (100 mL) was added to the vial. The organic layer was washed with water (3×100 mL) and dried and concentrated. The resultant oil was purified by column chromatography using silica gel (230-400 mesh) and eluting the column with 10% ethyl acetate in hexane afforded a colorless solid (0.485 g, yield: 90%).

reactant | (3,5-bis-trifluoromethyl-benzyl)-(6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-5-ylmethyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.9 mmol, 0.5 g | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C=C3C(=NC2Cl)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C20H17ClF6N8
reactant | potassium-tert-butoxide butoxide | 3 mmol, 0.43 g | [O-]CCCC.CC(C)([O-])C.[K+]
reactant | cyclopropylmethyl amine | 3 mmol, 0.275 g | C1(CC1)CN | C4H9N
catalyst | Pd(OAc)2 | 0.004 mmol, 0.01 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.04 mmol, 0.03 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (5-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropylmethyl-amine | 0.485 g, yield: 90% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C=C3C(=NC2NCC2CC2)N(N=C3C)C)C=C(C1)C(F)(F)F)(F)F | C24H25F6N9
